US04518597
7-[4-(3,4-Dichloro-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dichloro-thiophenol.

reactant | 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C15H21NO6S
reactant | 3,4-dichloro-thiophenol | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
product | 7-[4-(3,4-Dichloro-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C20H21Cl2NO3S
